US06211215B1
In substantially the same manner as in Working Example 25, 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate was allowed to react with benzimidazole to give 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]benzimidazole. The yield was 49%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 115-117° C.

reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO5S
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
product | 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]benzimidazole | yield was 49% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC2=C1C=CC=C2 | C28H25N3O2
